US06461997B1
To a solution of 7 g (0.019 mol) 3-(bromodifluoromethylsulfonyl)-1-(N,N-diethylcarbamoyl)-1,2,4-triazole, prepared as in Example 1, in 50 ml methanol at room temperature was added 6.7 ml (0.029 mol) of a 25% w/v solution of sodium methoxide in methanol and the mixture was stirred for 2 h. The reaction mixture was then evaporated and the residue was triturated with ether. The resulting solid was collected by filtration, washed with ether and air-dried. A solution of the above solid in 50 ml water was acidified with concentrated hydrochloric acid and the mixture was extracted with ethyl acetate. The resulting organic layer was washed with saturated sodium chloride solution, dried over MgSO4 and evaporated to give 3.08 g (61% yield) of the desired 3-(bromodifluoromethylsulfonyl)-1,2,4-triazole as a white solid with a melting point of 176-177° C.

reactant | 3-(bromodifluoromethylsulfonyl)-1-(N,N-diethylcarbamoyl)-1,2,4-triazole | 0.019 mol, 7 g | BrC(S(=O)(=O)C1=NN(C=N1)C(N(CC)CC)=O)(F)F | C8H11BrF2N4O3S
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 3-(bromodifluoromethylsulfonyl)-1,2,4-triazole | 3.08 g, 61% yield | BrC(S(=O)(=O)C1=NNC=N1)(F)F | C3H2BrF2N3O2S
